US07491710B2
The compound 5-benzyloxy-3-[1-tert-butoxycarbonyl-6-(2-diethylaminoethoxy)-1H-indol-2-yl]indazole-1-carboxylic acid tert-butyl ester is prepared according to procedure N using 1.23 g of 5-benzyloxy-3-[6-(2-bromoethoxy)-1-tert-butoxycarbonyl-1H-indol-2-yl]indazole-1-carboxylic acid tert-butyl ester, 50 ml of acetonitrile, 401 mg of potassium iodide, 204 mg of diethylamine, and 770 mg of cesium carbonate. After treatment, the reaction crude is purified by chromatography on a cartridge of 20 g of silica; eluent: 98/2, 95/5, 92/8 dichloromethane/methanol to obtain 390 mg of 5-benzyloxy-3-[1-tert-butoxycarbonyl-6-(2-diethylaminoethoxy)-1H-indol-2-yl]indazole-1-carboxylic acid tert-butyl ester.

reactant | 5-benzyloxy-3-[6-(2-bromoethoxy)-1-tert-butoxycarbonyl-1H-indol-2-yl]indazole-1-carboxylic acid tert-butyl ester | 1.23 g | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)OCC1=CC=CC=C1)C=1N(C2=CC(=CC=C2C1)OCCBr)C(=O)OC(C)(C)C | C34H36BrN3O6
reactant | potassium iodide | 401 mg | [I-].[K+]
reactant | diethylamine | 204 mg | C(C)NCC | C4H11N
reactant | cesium carbonate | 770 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 5-benzyloxy-3-[1-tert-butoxycarbonyl-6-(2-diethylaminoethoxy)-1H-indol-2-yl]indazole-1-carboxylic acid tert-butyl ester | 390 mg | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)OCC1=CC=CC=C1)C=1N(C2=CC(=CC=C2C1)OCCN(CC)CC)C(=O)OC(C)(C)C | C38H46N4O6
